US05641793
Oil-free sodium hydride (48 mg) was added to a solution of 2-amino-3,5-dichloropyridine (326 mg) in 1,2-dimethoxyethane (20 ml). After evolution of hydrogen ceased, 5-dimethylamino-1-naphthalenesulphonyl chloride (540 mg) was added and the mixture was heated at 75° C. for 3 days. Volatile material was removed by evaporation and the residue was purified by flash chromatography. Elution with dichloromethane/hexane (3:2 v/v) and trituration of the resulting foam with ether/hexane (1:10 v/v) gave 5-(dimethylamino)-N-(3,5-dichloro-2-pyridyl)-1-naphthalenesulphonamide (52 mg), m.p. 161°-163° C.; mass spectrum [+ve FAB, dimethylsulphoxide (DMSO)/glycerol (GLY)]: 396 (M+H)+.

reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | 2-amino-3,5-dichloropyridine | 326 mg | NC1=NC=C(C=C1Cl)Cl | C5H4Cl2N2
reactant | hydrogen | [H][H] | H2
reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 540 mg | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 5-(dimethylamino)-N-(3,5-dichloro-2-pyridyl)-1-naphthalenesulphonamide | 52 mg | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=NC=C(C=C1Cl)Cl)C | C17H15Cl2N3O2S
